### PR TITLE
Lean/Mathlib formalization of kimchi gates: scaffolding + AddComplete

### PR DESCRIPTION
**Pull request by martyall**
**PR 1 of 2** — base of a stack. This sets up the Lean project; the VarBaseMul gate + circuit follow in a stacked PR on top of this branch.

Stands up `formal/`: a Lean 4 / Mathlib formalization that verifies kimchi's custom gates against Mathlib's *proven* elliptic-curve group law (the trusted oracle), gate by gate.

### Project setup
- Lean toolchain + Mathlib pinned to **v4.28.0**.
- CI `.github/workflows/lean.yml` (runs only on `formal/**`): style check → elan → `lake exe cache get` + fetch ProofWidgets' cloud-release widget JS (not in the olean cache) → `lake build Kimchi` → a **sorry-gate** that `#print axioms` every headline theorem and fails on `sorryAx`.
- Style: Lean has no autoformatter, so `formal/scripts/check-style.sh` (≤100 cols, no trailing ws/tabs, final newline; `--fix`) + `make lean-*`.

### Formalization
- `Kimchi/Curve.lean` — the EC oracle (the `IsShortShape` Pasta-shape predicate).
- `Kimchi/Gate/Generic.lean` — the generic PLONK gate, modeled over the trace primitives it uses (wire / assignment / slot, inlined here as their only consumer), with the executable-checker-reflects-spec bridge (`satisfies_iff`) + a runnable `Main.lean` demo.
- `Kimchi/Gate/AddComplete.lean` — the **CompleteAdd** gate: constraint model + reflection (`ok_iff`), soundness/completeness, and the lift to Mathlib's `Point` group law (`sound_point_noninf`, `sound_point_inf`, incl. the point-at-infinity case).

All proofs axiom-clean (`propext, Classical.choice, Quot.sound`); build + style green in CI.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: formal/Kimchi/Gate/AddComplete.lean [hunk 1]
```diff
@@ -0,0 +1,332 @@
...
+    `x21Inv`, the whole point of the gate). -/
+def Holds [CommRing F] (w : Witness F) : Prop :=
+  let x21  := w.x2 - w.x1
+  let y21  := w.y2 - w.y1
+  let x1sq := w.x1 * w.x1
+  -- zero_check(x21, x21Inv, sameX): constrains `sameX = (x1 == x2)`
+  (w.x21Inv * x21 - (1 - w.sameX) = 0)                                         -- c1
+  ∧ (w.sameX * x21 = 0)                                                        -- c2
+  -- slope: sameX ? (2·s·y₁ = 3x₁²)  :  ((x₂−x₁)·s = y₂−y₁)
+  ∧ (w.sameX * ((w.s + w.s) * w.y1 - (x1sq + x1sq + x1sq))
```
Comment (martyall) [inline formal/Kimchi/Gate/AddComplete.lean]: why not just use `2 * w.s` or `3 * x1sq` ?

File: formal/Kimchi/Gate/AddComplete.lean [hunk 2]
```diff
@@ -0,0 +1,332 @@
...
+  ∧ (y21 * w.infZ - w.inf = 0)                                                -- c7
+
+/-- EXECUTABLE checker — runnable on a concrete witness. -/
+def ok [CommRing F] [DecidableEq F] (w : Witness F) : Bool :=
+  let x21  := w.x2 - w.x1
+  let y21  := w.y2 - w.y1
+  let x1sq := w.x1 * w.x1
+  (w.x21Inv * x21 - (1 - w.sameX) == 0)
+    && (w.sameX * x21 == 0)
+    && (w.sameX * ((w.s + w.s) * w.y1 - (x1sq + x1sq + x1sq))
```
Comment (martyall) [inline formal/Kimchi/Gate/AddComplete.lean]: why not use `2 * w.s` or `3 * x1sq`

File: formal/Kimchi/Gate/Generic.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+    witnesses instead. Still over `Int` (no Mathlib) so it builds in seconds. -/
+
+/-- A wire is a column position in the trace, identified by its variable index. -/
+abbrev Wire := Nat
+
+/-- A witness: a value per wire. -/
+abbrev Assignment := Array Int
+
+/-- Read a wire; out-of-range as 0 for totality. -/
+def Assignment.get (a : Assignment) (w : Wire) : Int := a.getD w 0
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: arrent assignments an array of field elems ?

File: formal/Kimchi/Gate/Generic.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+
+/-- The value of an optional wire slot. A `none` slot contributes 0 — and in
+    `reduce`, a `none` wire always comes paired with a zeroed coefficient, so this
+    convention is faithful (constants live in the `c` term, not in slots). -/
+def slot (a : Assignment) : Option Wire → Int
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: I dont know what wiring has to do with this. Wiring for us has to do with how the plonk matrix onnextes inputs and outputs

File: formal/Kimchi/Gate/Generic.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+
+The generic gate, modeled exactly as `GenericPlonkConstraint`.
+
+The high-level snarky `Basic` constraints (R1CS / Square / Equal / Boolean) are
+not primitives at this layer: `GenericPlonk.purs:reduce` lowers every one of them
+to the generic gate
+
+      cl·vl + cr·vr + co·vo + m·(vl·vr) + c = 0
+
+(see `Snarky.Constraint.Kimchi.Types.GenericPlonkConstraint`). So we model the
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: Remove this reference

File: formal/Kimchi/Gate/Generic.lean [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+generic gate exactly, plus the system-level "all gates hold" relation and its
+executable checker.
+
+## Main result
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: remove this whole section

File: formal/Kimchi/Gate/Generic.lean [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+
+`satisfies_iff` — the executable checker `satisfies` faithfully decides the
+relational spec `Satisfies` (every generic gate in a list holds on an
+assignment).
+
+## Supporting development
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: remove this whole section

File: formal/Kimchi/Gate/Generic.lean [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+
+The gate model (`Generic` / `Generic.holds` / `Generic.ok`), the per-gate
+reflection `Generic.ok_iff`, and a runnable multiplication example.
+-/
+
+namespace Kimchi.Gate
+
+/-! ## Trace primitives.
+
+    Kimchi is PLONKish: the primitive is a row in a 15-column execution trace, not
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: remove this whole comment

File: formal/Kimchi/Gate/Generic.lean [hunk 9]
```diff
@@ -0,0 +1,119 @@
...
+    an R1CS triple. These layer-agnostic pieces — a wire (column position), an
+    assignment (a value per wire), and the optional-slot convention — are used only
+    by this generic-gate model; the custom EC gates work directly over field-element
+    witnesses instead. Still over `Int` (no Mathlib) so it builds in seconds. -/
+
+/-- A wire is a column position in the trace, identified by its variable index. -/
+abbrev Wire := Nat
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: its not a wire, it's a `Variable`

File: formal/Kimchi/Gate/Generic.lean (hunk 4 above)
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: why do you need this given the bidning Assignemnt.get` above?

File: formal/Kimchi/Gate/Generic.lean [hunk 10]
```diff
@@ -0,0 +1,119 @@
...
+def Generic.holds (g : Generic) (a : Assignment) : Prop :=
+  g.cl * slot a g.vl + g.cr * slot a g.vr + g.co * slot a g.vo
+    + g.m * (slot a g.vl * slot a g.vr) + g.c = 0
+
+/-- EXECUTABLE checker for one generic gate — a `Bool`, runnable. -/
+def Generic.ok (g : Generic) (a : Assignment) : Bool :=
+  (g.cl * slot a g.vl + g.cr * slot a g.vr + g.co * slot a g.vo
+    + g.m * (slot a g.vl * slot a g.vr) + g.c) == 0
+
+/-! ## System-level spec, checker, and the bridge between them. -/
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: remove this comment

File: formal/Kimchi/Gate/Generic.lean [hunk 11]
```diff
@@ -0,0 +1,119 @@
...
+    g.ok a = true ↔ g.holds a := by
+  simp [Generic.ok, Generic.holds]
+
+theorem satisfies_iff (gs : List Generic) (a : Assignment) :
+    satisfies gs a = true ↔ Satisfies gs a := by
+  simp [satisfies, Satisfies, List.all_eq_true, Generic.ok_iff]
+
+/-! ## Example: a multiplication `w0 * w1 = w2`, as the generic gate.
+
+    This is exactly the `R1CS (Just,Just,Just)` case of `reduce`
```
Comment (martyall) [inline formal/Kimchi/Gate/Generic.lean]: remove this comment

File: formal/Kimchi/Curve.lean [hunk 12]
```diff
@@ -0,0 +1,25 @@
+/-
+  Curve.lean
+
+  The elliptic-curve oracle for the kimchi EC gates.
+
+  The custom EC gates (AddComplete, VarBaseMul, EndoMul) all operate on the Pasta
```
Comment (martyall) [inline formal/Kimchi/Curve.lean]: remove this comment

File: formal/Kimchi/Curve.lean [hunk 13]
```diff
@@ -0,0 +1,25 @@
+/-
+  Curve.lean
+
+  The elliptic-curve oracle for the kimchi EC gates.
```
Comment (martyall) [inline formal/Kimchi/Curve.lean]: remove this comment

File: formal/Kimchi/Curve.lean [hunk 14]
```diff
@@ -0,0 +1,25 @@
+/-
```
Comment (martyall) [inline formal/Kimchi/Curve.lean]: remove this whole comment section

File: formal/Main.lean [hunk 15]
```diff
@@ -0,0 +1,10 @@
+import Kimchi.Gate.Generic
+
+open Kimchi.Gate
+
+/-- A runnable demo: the shape of "ingest a dumped (circuit, witness) and run the
```
Comment (martyall) [inline formal/Main.lean]: remove this comment

File: formal/Kimchi/Gate/AddComplete.lean [hunk 16]
```diff
@@ -0,0 +1,430 @@
...
+  sum `(x₁,y₁) + (x₂,y₂)` is the group element the gate encodes — `0` when `inf = 1`,
+  else the affine output `(x₃, y₃)` — using that `inf` is boolean (`inf_boolean`). It
+  splits into the per-case `sound_point_noninf` / `sound_point_inf`.
+* `complete` — COMPLETENESS, both cases in one statement: for on-curve inputs (`y₁ ≠ 0`),
+  an honest prover can fill a satisfying witness, casing internally on whether the sum is
+  finite or `∞`. Splits into the per-case `complete_noninf` / `complete_inf`.
+
+## Supporting development
+
+The constraint model (`Witness` / `Holds` / `ok`) + reflection (`ok_iff`), the
```
Comment (martyall) [inline formal/Kimchi/Gate/AddComplete.lean]: remove this internal comment

File: formal/Kimchi/Gate/AddComplete.lean [hunk 17]
```diff
@@ -0,0 +1,430 @@
...
+coordinate-level soundness (`sound_noninf`) feeding the `Point`-level results, and a
+runnable example. No `sorry`; standard axioms only.
+-/
+
+namespace Kimchi.Gate.AddComplete
+
+/-- The CompleteAdd witness columns (cols 0–10), names matching AddComplete.purs. -/
```
Comment (martyall) [inline formal/Kimchi/Gate/AddComplete.lean]: You should reference the rust code, not the purescript code

File: formal/Kimchi/Gate/AddComplete.lean [hunk 18]
```diff
@@ -0,0 +1,430 @@
...
+    && (y21 * w.infZ - w.inf == 0)
+
+/-- Reflection: the checker faithfully decides the relational constraints. -/
+theorem ok_iff [CommRing F] [DecidableEq F] (w : Witness F) :
+    ok w = true ↔ Holds w := by
+  simp only [ok, Holds, Bool.and_eq_true, beq_iff_eq, and_assoc]
+
+/-! ## The semantic theorem: the constraints implement EC addition.
+
+    Oracle = Mathlib's `WeierstrassCurve.Affine` group law. `W` has type
```
Comment (martyall) [inline formal/Kimchi/Gate/AddComplete.lean]: remove this comment
